US05173493
To a solution of diisopropylamine (202.4 mg) in tetrahydrofuran (5 ml) at -50° C. under nitrogen atmosphere was added 1.64M-butyllithium in hexane (1.23 ml). After being stirred at -60°~-70° C. for 30 minutes, the mixture was treated with a solution of 8,9-dihydro-10-ethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]-indol-6(7H)-one (549 mg) in tetrahydrofuran (10 ml) over 20 minutes. The mixture was stirred at -60°~-70° C. stirred for 60 minutes and a solution of methyl iodide (213 mg) in tetrahydrofuran (1 ml) was added dropwise at -60° C. over 10 minutes. After the mixture was stirred at -65° C. for 30 minutes and at -20° C. for 1 hour, it was diluted with water and extracted twice with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give 8,9-dihydro-10-ethyl-7-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one, which was dissolved with 80% aqueous acetic acid (6 ml) and stirred at 60° C. for 2 hours. After evaporation of the solvent, the residue was diluted with water, neutralized with an aqueous sodium bicarbonate solution, and extracted twice with 10%-methanol-chloroform. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (5% methanol-chloroform). The obtained 8,9-dihydro-10-ethyl-7-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one was dissolved in 12N-hydrogenchloride in ethanol (1 ml) and evaporated in vacuo. Tritulation of the residue with ether gave 8,9-dihydro-10-ethyl-7-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol- 6(7H)-one hydrochloride (202.56 mg).

reactant | diisopropylamine | 202.4 mg | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | 8,9-dihydro-10-ethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]-indol-6(7H)-one | 549 mg | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C38H35N3O
reactant | methyl iodide | 213 mg | CI | CH3I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.23 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8,9-dihydro-10-ethyl-7-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)(CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C)=O | C39H37N3O
